* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* CDL Netlist:                                              *
*                                                           *
* Cell Name  : NAND                                         *
* Netlisted  : Tue Apr  8 14:47:49 2025                     *
* Pegasus Version: 22.20-p009 Wed Jan 18 17:06:09 PST 2023  *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
*.LDD
*.DEVTMPLT 0 M(g45n1svt) _nmos1v ndiff_conn(D) poly_conn(G) ndiff_conn(S) psubstrate(B)
*.DEVTMPLT 1 M(g45p1svt) _pmos1v pdiff_conn(D) poly_conn(G) pdiff_conn(S) nwell_conn(B)

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M1_PO_CDNS_1                                    *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M1_PO_CDNS_1 1
** N=1 EP=1 FDC=0
.ends M1_PO_CDNS_1

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M2_M1_CDNS_2                                    *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M2_M1_CDNS_2 1
** N=1 EP=1 FDC=0
.ends M2_M1_CDNS_2

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M2_M1_CDNS_3                                    *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M2_M1_CDNS_3 1
** N=1 EP=1 FDC=0
.ends M2_M1_CDNS_3

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos1v_CDNS_6                                   *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos1v_CDNS_6 S_source_0 2 D_drain_1 4
*.DEVICECLIMB
** N=4 EP=4 FDC=0
.ends nmos1v_CDNS_6

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pmos1v_CDNS_7                                   *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pmos1v_CDNS_7 S_source_0 D_drain_1 3 4
*.DEVICECLIMB
** N=4 EP=4 FDC=0
.ends pmos1v_CDNS_7

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: NAND                                            *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt NAND A B GND VDD Y
** N=6 EP=5 FDC=4
X0 A M1_PO_CDNS_1 $T=-1535 1050 0 0 $X=-1635 $Y=930
X1 B M1_PO_CDNS_1 $T=-285 310 0 0 $X=-385 $Y=190
X2 GND M2_M1_CDNS_2 $T=-1740 -260 0 0 $X=-1820 $Y=-530
X3 VDD M2_M1_CDNS_2 $T=-1740 1620 0 0 $X=-1820 $Y=1350
X4 Y M2_M1_CDNS_2 $T=-1330 1620 0 0 $X=-1410 $Y=1350
X5 VDD M2_M1_CDNS_2 $T=-490 1620 0 0 $X=-570 $Y=1350
X6 Y M2_M1_CDNS_2 $T=-80 -260 0 0 $X=-160 $Y=-530
X7 Y M2_M1_CDNS_2 $T=-80 1620 0 0 $X=-160 $Y=1350
X8 GND M2_M1_CDNS_3 $T=-1740 -970 0 0 $X=-1820 $Y=-1100
X9 VDD M2_M1_CDNS_3 $T=-1740 2330 0 0 $X=-1820 $Y=2200
X10 Y M2_M1_CDNS_3 $T=-1330 680 0 0 $X=-1410 $Y=550
X11 VDD M2_M1_CDNS_3 $T=-490 2330 0 0 $X=-570 $Y=2200
X12 Y M2_M1_CDNS_3 $T=-80 680 0 0 $X=-160 $Y=550
X13 GND A 6 GND nmos1v_CDNS_6 $T=-1580 -500 0 0 $X=-2000 $Y=-700
X14 6 B Y GND nmos1v_CDNS_6 $T=-330 -500 0 0 $X=-750 $Y=-700
X15 VDD Y A GND pmos1v_CDNS_7 $T=-1580 1380 0 0 $X=-2000 $Y=1180
X16 VDD Y B GND pmos1v_CDNS_7 $T=-330 1380 0 0 $X=-750 $Y=1180
M0 6 A GND GND g45n1svt w=2.4e-07 l=4.5e-08 ad=3.36e-14 as=3.36e-14 pd=7.6e-07 ps=7.6e-07 sa=1.4e-07 sb=1.4e-07 sca=12.8525 scb=0.0120475 scc=0.00020965 fw=2.4e-07 $X=-1580 $Y=-500 $dt=0
M1 Y B 6 GND g45n1svt w=2.4e-07 l=4.5e-08 ad=3.36e-14 as=3.36e-14 pd=7.6e-07 ps=7.6e-07 sa=1.4e-07 sb=1.4e-07 sca=15.5712 scb=0.0166614 scc=0.000532201 fw=2.4e-07 $X=-330 $Y=-500 $dt=0
M2 Y A VDD VDD g45p1svt w=2.4e-07 l=4.5e-08 ad=3.36e-14 as=3.36e-14 pd=7.6e-07 ps=7.6e-07 sa=1.4e-07 sb=1.4e-07 sca=27.6029 scb=0.0286946 scc=0.00220115 fw=2.4e-07 $X=-1580 $Y=1380 $dt=1
M3 Y B VDD VDD g45p1svt w=2.4e-07 l=4.5e-08 ad=3.36e-14 as=3.36e-14 pd=7.6e-07 ps=7.6e-07 sa=1.4e-07 sb=1.4e-07 sca=30.3216 scb=0.0333085 scc=0.0025237 fw=2.4e-07 $X=-330 $Y=1380 $dt=1
.ends NAND
